US06124300
3-Bromo-5-methoxy-α,α-dimethyl-4-[[5-amino-2-methyl-6-[(1-propylbutyl)amino]-4-pyrimidinyl]oxy]benzenemethanol
Platinum black, (5%,0.25 g) was added to a solution of 3-bromo-5-methoxy-α,α-dimethyl-4-[[2-methyl-5-nitro-6-[(1-propylbutyl)amino]-4-pyrimidinyl]oxy]benzenemethanol (0.80 g) in 50 mL of ethanol. The mixture was hydrogenated at a pressure of 41 psi for 18 hours. The mixture was filtered through celite and the filtrate was stripped under reduced pressure. The residue was taken up in 1 N NaOH and extracted with methylene chloride. The combined methylene chloride extracts were dried over MgSO4 and the filtrate was stripped under reduced pressure to yield the title compound, mp 114-116° C.

reactant | 3-bromo-5-methoxy-α,α-dimethyl-4-[[2-methyl-5-nitro-6-[(1-propylbutyl)amino]-4-pyrimidinyl]oxy]benzenemethanol | 0.80 g | BrC=1C=C(C=C(C1OC1=NC(=NC(=C1[N+](=O)[O-])NC(CCC)CCC)C)OC)C(O)(C)C | C22H31BrN4O5
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Platinum black | 0.25 g | [Pt] | Pt
product | 3-Bromo-5-methoxy-α,α-dimethyl-4-[[5-amino-2-methyl-6-[(1-propylbutyl)amino]-4-pyrimidinyl]oxy]benzenemethanol | BrC=1C=C(C=C(C1OC1=NC(=NC(=C1N)NC(CCC)CCC)C)OC)C(O)(C)C | C22H33BrN4O3
